data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,9204,"CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:1]C(=O)OCC.O=C(CCCC(F)=C(F)F)[O:2][H:3].OCC1=CC=CC(OC2=CC=CC=C2)=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3384,"C[C+](C)C.O=C(NC1CCCC1)C(CC1=CC=C(OCC2=CC=CC=C2)C=C1)[NH2+:1][C:2](=O)[O-:3].O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1932,"CC=C(C)O[B:1](CCCC)CCCC.CC=[O:2].CC[NH+](C(C)C)C(C)C.CC[NH+](CC)CC.O=S(=O)([O-])C(F)(F)F.[Cl-]|(2, 1)"
train,pmechdb_split_0,0,9606,"CCCCC(O)C([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[C:1]=[C:2](CCCC)[O-:3].CC[OH+:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,4763,"CC(=O)C=C(CC1=CC=CC=C1)[O:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5442,"CC[O+:1](CC=C=N)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,488,"CC1=C2C3=CC(C(O)O[OH:1])=CC=C3N(C)C2=C(C)C2=C1C=NC=C2.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4511,"C=C[C:1](SCC)([OH:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3237,"CC1=CC=C(S(=O)(=O)[O-])C=C1.N#CC1=CC(OC2=C(F)C(CO)=CC=C2Br)=CC(C(O)[O:1]CCO)=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3035,"C[CH:1]1C[OH+:2]1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4689,"C1=CC=C([S-:1])C=C1.C[S+:2](C)[O:3][H:4]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,2470,"C[C+](C)C.O=C(O)CNC(=O)C(CC1=CC=C(OCC2=CC=CC=C2)C=C1)[NH2+:1][C:2](=O)[O-:3].O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7021,"CCC[NH:1]CCC.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5886,"CCO[S:1](F)([N:2](CC)CC)[F:3].F|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6147,"C1CC[CH+:1]CC1.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,6687,"C=[C:1]=[CH:2]C(=O)OCC.CC[P:3](CC)CC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2948,"CCC(C)C(C(=O)NCC(=O)O)[NH2+:1][C:2](=O)[O-:3].C[C+](C)C.O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5242,"C=CC(C(C)=O)C(C)(C=CC)[O-:1].CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5133,"C=[NH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,313,"CC(=O)C=CCC[CH:1]=[CH:2][C:3](C)=[O:4].O.[K][S:5]C1=CC=CC=C1|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1652,"C[S+](C)O[C:1](C(=O)Cl)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7367,"C1=CC=C(CC[NH2:1])C=C1.CO.C[O+:2]=[CH2:3].O.[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10427,"CCC[C:1]([CH:2](C(=O)CC)[H:3])=[OH+:4].CC[OH:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,899,"Br[C:1](Br)(Br)[Br:2].C1=CC=C([P:3](C2=CC=CC=C2)C2=CC=CC=C2)C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1237,"OC1(CNN=[O:1])CCCCC1.[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,800,"CCOC(=O)C(C)(N=NC1=C2C(C3=C(F)C=CC=C3)=CC=NC2=C(OC)C=C1)[C:1](C)=[O:2].O.[Cl-].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2568,"C[C:1](C)([H:2])[CH+:3]CCC1=CCCC1.O|((1, 2), 3)"
train,pmechdb_split_0,0,7029,"C[P+:1](O)(O)[O:2][CH3:3].[Cl-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,6620,"O[C:1]1([O-:2])OCCC[O:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5534,"CCCCCC1=C[C:1]([O-:2])=[C:3]([CH:4](C=C(C)CCC=C(C)C)[OH:5])C(O)=C1|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3360,"C[NH:1][CH2:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5100,"COCC1CCCN1[N+:1](=C1C=C(C)CCC1CCCC(OC)OC)[Li-:2][NH+](C(C)C)C(C)C.[I-]|((2, 1), 1)"
train,pmechdb_split_0,0,2671,"C[C:1]1=[CH:2]OC=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6334,"CCO.O.O=C(C1=CC(C(F)(F)F)=CC(C(F)(F)F)=C1)N1CC[C:1]([OH:2])([OH+:3]CCO)CC1CC1=CC=CC=C1.[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6242,"C1=C[N:1]=CC=C1N1CCCC1.CCOC(=O)CC=CC[O+:2](C([O-])(CC1=CC=CC=C1)OC(=NC1CCCCC1)NC1CCCCC1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8447,"C1CCN(C2([OH:1])CCCC2)C1.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1464,"CCC(O)[C:1]1(O)OCC[NH2+:2]1|((1, 2), 2)"
train,pmechdb_split_0,0,3920,"O=C([O-])[O-:1].O[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2842,"CCCC1=CC(C)=C([O+:1](C)[B-:2](Br)(Br)Br)C=C1|((2, 1), 1)"
train,pmechdb_split_0,0,226,"CC(C)(C)OC(C1(C(=O)CC2=CC=CC=C2)NCCC2=C1NC1=C2C=CC=C1)=[O:1].O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10012,"C=C1[CH-]C(=[O+][B-](Cl)(Cl)Cl)CCC[C:1](C)([C+:2](C)C)[CH2:3]1|((1, 3), 2)"
train,pmechdb_split_0,0,647,"C[C:1](C)=[O+:2]C.[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1924,"CC[CH2:1][Br:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1708,"CCO.CC[N+]1=C(C(C[CH:1]=[C:2](C)[O-:3])(C2=CC=C(OC)C=C2)[O:4][H:5])SC(CCO)=C1C.CC[NH+](CC)CC.[Br-]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,480,"C[S+](C)[O-].NC1=C(O)C(=[O:1])C2=C(C=CC=C2)C1=O.O=C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8094,"Br[C-:1](Br)Br.Br[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C1=CC2=C(C=C1)C(CC[O:2][H:3])=CN2|(1, 3);((3, 2), 2)"
